US06395713B1
1-bromohexadecane (15.27 g, 50 mmol) was rapidly added to oleylamine (26.75 g, 100 mmol) at 100° C. The reaction mixture was heated at 120° C. for 30 minutes and than cooled to room temperature. Chloroform(200 ml) was added followed by 1 N NaOH (50 ml). The mixture was then extracted with H2O (200 ml), the organic layer dried (Na2SO4) and concentrated to a syrup. Silica gel column chromatography using 5-20% gradient methanol in dichloromethane afforded 20.5 g of palmityloleylamine as a syrup (yield, 83%). The identity of the product was confirmed using NMR spectroscopy. 1H NMR (CDCl3) d 5.34 (m, 2H, CH═CH), 2.58 (m, 4H), 2.00 (m, 4H), 1.47 (m, 4H), 1.25 (m, 48H), 0.86 (m, 6H). FAB-MS: 493 [M+H]+. (Other reagents could include oleyl-bromide and hexadecane amine)

reactant | 1-bromohexadecane | 50 mmol, 15.27 g | BrCCCCCCCCCCCCCCCC | C16H33Br
reactant | oleylamine | 100 mmol, 26.75 g | C(CCCCCCC\C=C/CCCCCCCC)N | C18H37N
reactant | NaOH | 1 N, 50 ml | [OH-].[Na+]
solvent | Chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
product | palmityloleylamine | 20.5 g | C(CCCCCCCCCCCCCCC)CCCCCCCC\C=C/CCCCCCCCN | C34H69N
